US04973600
1.03 g of lithium hydroxide monohydrate are added to a solution of 7.0 g of ethyl 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate in methanol under ice-cooling and the mixture is stirred at room temperature for 4 hours. Isopropyl ether is added to the reaction mixture and the resultant powdery materials are collected by filtration to give 6.48 g of lithium 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate.

reactant | lithium hydroxide monohydrate | 1.03 g | O.[OH-].[Li+]
reactant | ethyl 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate | 7.0 g | ClC1=C(C(=CC=2OC(OC21)C(=O)OCC)C=O)Cl | C11H8Cl2O5
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | CO | CH4O
product | lithium 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate | 6.48 g | ClC1=C(C(=CC=2OC(OC21)C(=O)[O-])C=O)Cl.[Li+] | InChI=1S/C9H4Cl2O5.Li/c10-5-3(2-12)1-4-7(6(5)11)16-9(15-4)8(13)14;/h1-2,9H,(H,13,14);/q;+1/p-1
